US05120738
Preparation of o-Oleoylaminoaniline
N,N'-Dicyclohexylcarbodiimide (2.27 g) was added to a solution of 2.82 g of oleic acid and 1.62 g of o-phenylenediamine in 50 ml of methylene chloride with stirring under ice cooling. The mixture was stirred at room temperature for one night. After completion of the reaction insoluble matter was filtered, followed by removal of the solvent by evaporation. The residue obtained was purified by silica gel column chromatography to obtain 2.84 g of the objective compound (yield: 76%).

reactant | N,N'-Dicyclohexylcarbodiimide | 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | oleic acid | 2.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | o-phenylenediamine | 1.62 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | o-Oleoylaminoaniline | 2.84 g, yield: 76% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NC1=C(N)C=CC=C1 | C24H40N2O
